US04395549
1 g. of 6-(4-Methyl-phenylhydrazono)-9-methyl-1,2,3,4,6,7,8,9-octahydro-pyrido[2,1-b]quinazoline-11-one is added to 10 g. of polyphosphoric acid heated to 180° C. and the reaction mixture is heated for 40 minutes at this temperature. After cooling the mixture is diluted with 60 ml. of water. A yellowish-white crystalline precipitate is obtained which is filtered and washed with water. After drying the obtained solid is dissolved in chloroform and the undissolved part is filtered off. The solution is treated with active charcoal and evaporated. The obtained yellowish white oil is crystallized from ethyl acetate. 0.4 g. of 7,10-dimethyl-5-oxo-1,2,3,4,7,8-hexahydro-5H,13H-indolo[2',3';3,4]pyrido [2,1-b]quinazoline are obtained melting at 220° C.

reactant | 6-(4-Methyl-phenylhydrazono)-9-methyl-1,2,3,4,6,7,8,9-octahydro-pyrido[2,1-b]quinazoline-11-one | CC1=CC=C(C=C1)NN=C1CCC(N2C1=NC=1CCCCC1C2=O)C | C20H24N4O
solvent | water | O | H2O
product | 7,10-dimethyl-5-oxo-1,2,3,4,7,8-hexahydro-5H,13H-indolo[2',3';3,4]pyrido [2,1-b]quinazoline | CC1CC2=C(C3=NC=4CCCCC4C(N31)=O)NC3=CC=C(C=C32)C | C20H21N3O
